US09381191B2
0.1 g (0.403 mmol) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl) methanol were solubilised in 3 ml of dichloromethane with magnetic stirring. 0.084 ml (0.604 mmol) of triethylamine and 0.059 ml (0.443 mmol) of isobutyl chloroformate were added. The mixture was stirred at r.t. for 15 min before being concentrated in vacuo. The residue was taken up in 10 ml of diisopropyl ether and a solid was isolated by filtration. The solid was purified by preparative HPLC and 0.084 g (yield=59%) of isobutyl ((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) carbonate were obtained as a pale yellow solid. LC-MS: m/z=349 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.70 (d, J=6.8 Hz, 1H), 7.79-7.65 (m, 3H), 7.60-7.45 (m, 4H), 7.23 (td, J=6.8, 1.1 Hz, 1H), 5.42 (s, 2H), 3.91 (d, J=6.6 Hz, 2H), 1.95-1.80 (m, 1H), 0.86 (d, J=6.7 Hz, 6H).

reactant | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl) methanol | 0.403 mmol, 0.1 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
reactant | triethylamine | 0.604 mmol, 0.084 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.443 mmol, 0.059 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | isobutyl ((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methyl) carbonate | 0.084 g, yield=59% | C(OCC(C)C)(OCC=1N=C2N(C=CC=C2)C1C#CC1=CC=CC=C1)=O | C21H20N2O3
